US07105516B2
2-(5-Cyano-1H-indol-3-yl)-cyclopent-1-enecarboxylic acid ethyl ester
2-[5-Cyano-1-(toluene-4-sulfonyl)-1H-indol-3-yl]-cyclopent-1-enecarboxylic acid ethyl ester (2.0 g, 4.6 mMol) was dissolved in THF (100 mL) and sodium hydroxide (1.8 mL, 10 N, 18 mMol) was added. After refluxing for 4 h, the reaction was filtered through celite and the filtrate was evaporated. The residue was dissolved in brine (20 mL) and extracted with ethyl acetate (3×30 mL). The combined organics were dried with magnesium sulfate and evaporated in vacuo. The material was purified by chromatography on silica using ethyl acetate/hexanes (30–40%) as the eluent to provide the product as a white solid (1.21 g, 94%). 1H NMR (400 MHz, CDCl3) δ 8.59 (1H, bs), 7.93 (1H, s), 7.84 (1H, s), 7.40 (2H, s), 4.12 (2H, q, J=7.2 Hz), 3.01 (2H, m), 2.86 (2H, m), 2.02 (2H, pentet, J=7.5 Hz), 1.16 (3H, t, J=7.3 Hz); MS m/e 303.2 (M+Na).

reactant | 2-[5-Cyano-1-(toluene-4-sulfonyl)-1H-indol-3-yl]-cyclopent-1-enecarboxylic acid ethyl ester | 4.6 mMol, 2.0 g | C(C)OC(=O)C1=C(CCC1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C24H22N2O4S
reactant | sodium hydroxide | 18 mMol, 10 N, 1.8 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(5-Cyano-1H-indol-3-yl)-cyclopent-1-enecarboxylic acid ethyl ester | 1.21 g, 94% | C(C)OC(=O)C1=C(CCC1)C1=CNC2=CC=C(C=C12)C#N | C17H16N2O2
